US06656884B2
1-Amino-3-[4-cyano-3-methoxyphenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (Comp. 1.02)
Potassium carbonate (1.0 g) and 2,4-dinitrophenoxyamine (0.8 g) were added to a solution of 3-[4-cyano-3-methoxyphenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (1.1 g) in 15 ml of ethyl acetate. The mixture was subsequently stirred for 15 hours at 55-60° C., whereupon the solids formed were separated off and washed using in each case 30 ml of ethyl acetate and diisopropyl ether. The combined filtrates were washed twice using in each case 25 ml of water, dried over sodium sulfate and then concentrated. After crystallization using 10 ml of diisopropyl ether, 0.6 g of the desired product was obtained. M.p.: >230° C.

reactant | Potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dinitrophenoxyamine | 0.8 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
reactant | 3-[4-cyano-3-methoxyphenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 1.1 g | C(#N)C1=C(C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)OC | C13H8F3N3O3
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 1-Amino-3-[4-cyano-3-methoxyphenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 0.6 g | NN1C(N(C(C=C1C(F)(F)F)=O)C1=CC(=C(C=C1)C#N)OC)=O | C13H9F3N4O3
